US06307051B1
4-{4-[4-(4-fluorobenzamido)piperidinomethyl]phenylmethoxyl}-2-isopropylidenecoumaran-3-one
A mixture of 570 mg 4-(4-chloromethyl-phenylmethoxy)-2-isopropylidenecoumaran-3-one (preparation 2), 240 mg potassium carbonate, 400 mg 4-(4-fluorobenzamido)piperidine and 15 ml dimethylformamide is warmed to 60° C. for 3 hours, then evaporated, mixed with water and extracted with ethyl acetate. After evaporation of the extract, the residue (0.6 g) is purified by silica gel chromatography (eluent ethyl acetate) to give 180 mg (19%) of the desired compound, m.p. 205-208° C.

reactant | 4-(4-chloromethyl-phenylmethoxy)-2-isopropylidenecoumaran-3-one | 570 mg | ClCC1=CC=C(C=C1)COC1=C2C(C(OC2=CC=C1)=C(C)C)=O | C19H17ClO3
reactant | potassium carbonate | 240 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-fluorobenzamido)piperidine | 400 mg | FC1=CC=C(C(=O)NC2CCNCC2)C=C1 | C12H15FN2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-{4-[4-(4-fluorobenzamido)piperidinomethyl]phenylmethoxyl}-2-isopropylidenecoumaran-3-one | 180 mg, 19% | FC1=CC=C(C(=O)NC2CCN(CC2)CC2=CC=C(C=C2)COC2=C3C(C(OC3=CC=C2)=C(C)C)=O)C=C1 | C31H31FN2O4
